US05886008
D. 5-Cyano-1-[3-(1,2,5,6-tetrahydropyrid-4-yl)indol-5-yl]-1H-benzimidazole
5-Cyano-1-[3-(N-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)indol-5-yl]-1H-benzimidazole was used, and methylene chloride was used as solvent. Filtration afforded the title compound (75%) as a yellow solid: mp, decomposes at 240° C.; IR (KBr) 2228 cm-1 ; 13C NMR (CD3OD) δ 144.4, 137.9, 133.6, 131.1, 129.9, 126.0, 125.3, 125.2, 120.1, 118.4, 118.3, 117.5, 117.3, 116.1, 114.8, 113.2, 112.9, 110.4, 66.7, 42.0, 40.9. Anal. calcd. for C21H17N5.1.1 C4H8O2 [dioxane].1.1 HCl: C, 64.03; H, 5.69; N, 14.70. Found: C, 64.20; H, 5.54; N, 14.47.

reactant | 5-Cyano-1-[3-(N-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)indol-5-yl]-1H-benzimidazole | C(#N)C1=CC2=C(N(C=N2)C=2C=C3C(=CNC3=CC2)C2=CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C26H25N5O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Cyano-1-[3-(1,2,5,6-tetrahydropyrid-4-yl)indol-5-yl]-1H-benzimidazole | 75% | C(#N)C1=CC2=C(N(C=N2)C=2C=C3C(=CNC3=CC2)C2=CCNCC2)C=C1 | C21H17N5
